Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Iodine / lobster
 
Attending: ___.
 
Chief Complaint:
Buried penis
 
Major Surgical or Invasive Procedure:
Dr. ___ ___ PROCEDURE:  Repair of buried penis 
with phalloplasty, placement of split-thickness skin graft 
harvested by plastic surgery.

Dr. ___ (Plastic Surgery) ___ PROCEDURE PERFORMED:
1. Full thickness skin graft to penile shaft with harvest from
right thigh (6x9cm)
2. Complex wound closure of right thigh incision 15 sq cm

 
History of Present Illness:
___ y/o male with buried penis and severe phimosis with resultant 
recurrent UTIs. 
 
Past Medical History:
History of MI s/p CABG in ___ Diabetes, HTN, CKD with baseline 
sCr 2.0, OSA on CPAP, h/o melanoma 

Surgical History: Tonsillectomy. 

Discharge Summary Past Medical dated ___:
1. CAD: s/p PCI to LAD, last cath ___. Prior MI and History of 
VF arrest.
2. Type II Diabetes Mellitus: followed at ___, poor diet 
compliance per wife, last HgA1C 10.0 (___)
3. ___
4. Hyperlipidemia: in ___- Tchol 213, ___ 345, HDL 36, LDL 122
5. CKD: baseline creatinine 1.3-1.7
6. OSA: on CPAP (unknown settings- ___ or ___ per ___ sleep 
study) at home
7. Obesity
8. GERD
9. Melanoma (s/p excision x5)
10. Neuropathy
11. Depression
 
Social History:
___
Family History:
Unknown, the patient was adopted. 
 
Physical Exam:
Pleasant, nad
obese
foley in place, yellow uop
right groin donor-graft site, c/d/I
groin/phallus dressing in place, c/d/I
l/e w/out edema, pitting, pain at bilateral calves
right great toe, hallux with erythema, pain, calor c/w gouty 
flare. 
 
Pertinent Results:
___ 06:55AM BLOOD WBC-8.7 RBC-3.16* Hgb-9.9* Hct-31.9* 
MCV-101* MCH-31.3 MCHC-31.0* RDW-14.5 RDWSD-53.9* Plt ___
___ 06:04AM BLOOD WBC-8.2 RBC-2.90* Hgb-9.3* Hct-29.8* 
MCV-103* MCH-32.1* MCHC-31.2* RDW-15.0 RDWSD-55.7* Plt ___
___ 06:55AM BLOOD Glucose-75 UreaN-30* Creat-2.0* Na-138 
K-4.2 Cl-98 HCO3-31 AnGap-13
___ 06:04AM BLOOD Glucose-150* UreaN-24* Creat-1.7* Na-138 
K-4.5 Cl-101 HCO3-28 AnGap-14
___ 06:55AM BLOOD Calcium-9.6 Mg-2.2
 
Brief Hospital Course:
Mr. ___ was admitted to the Urology Service although 
followed throughout his hospital course by plastic surgery as 
well.  He underwent full thickness skin graft to penile shaft 
with harvest from right thigh (6x9cm) and complex wound closure 
of right thigh incision 15 sq cm for a buried penis. He 
tolerated the procedure well and no concerning intra-operative 
events occurred; please see dictated operative note for full 
details.  Mr. ___ received ___ intravenous 
antibiotic prophylaxis and at the end of the procedure the 
patient was extubated and transported to the PACU for further 
recovery before being transferred to the floor.  He was 
transferred from the PACU in stable condition. Throughout his 
hospital course his pain was well controlled. He was gradually 
converted to oral pain medications. He was provided with 
pneumoboots and incentive spirometry for prophylaxis, and he 
ambulated on POD1 with assistance. Appropriate home medications 
were restarted and dressing changes were coordinated with 
primary urology team and plastic surgery team. Diet was advanced 
regular and his blood pressure medications were titrated for 
tighter control, although he continued to rise above SBP 150. 
Foley catheter care and leg bag teaching were provided by 
nursing. On the date of discharge, starting the night before, he 
had acute onset of right great toe pain w/ erythema and calor. 
He denied prior "gout" flare or awareness. Our colleages in 
internal medicaine were consulted with regard to his 
uncontrolled hypertension and the new onset of what this likely 
"gout." The remainder of the hospital course was unremarkable. 
Mr. ___ was discharged in stable condition, eating well, 
ambulating independently, and with pain control on oral 
analgesics. On exam, incision was clean, dry, and intact, with 
no evidence of hematoma collection or infection. The patient was 
given explicit instructions to follow-up in one week for 
post-operative evaluation and trial of voiding and wound check. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 40 mg PO DAILY 
2. LamoTRIgine 150 mg PO BID 
3. Ketoconazole 2%  1 Appl TP BID:PRN skin irritation 
4. Atenolol 50 mg PO DAILY 
5. amLODIPine 5 mg PO DAILY 
6. Rosuvastatin Calcium 40 mg PO DAILY 
7. insulin glargine 24 units subcutaneous QPM 
8. Furosemide 80 mg PO DAILY 
9. Multivitamins W/minerals 1 TAB PO DAILY 
10. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
11. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN fever, pain  
2.  cefaDROXil 500 mg oral BID Duration: 5 Days 
RX *cefadroxil 500 mg 1 capsule(s) by mouth twice a day Disp 
#*10 Capsule Refills:*0 
3.  Ciprofloxacin HCl 500 mg PO ONCE Duration: 1 Dose 
Take the morning of your follow up appointment with Dr. ___ 
___ *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth once Disp #*1 
Tablet Refills:*0 
4.  Miconazole Powder 2% 1 Appl TP BID:PRN moist skin  
5.  PredniSONE 40 mg PO DAILY Duration: 5 Days 
5 day course started ___ for gouty flare  
6.  amLODIPine 10 mg PO DAILY 
Please see your primary care doctor within ___ weeks to discuss 
dosing of this medication.  
7.  Aspirin 81 mg PO DAILY  
8.  Atenolol 50 mg PO DAILY  
9.  Furosemide 80 mg PO DAILY  
10.  insulin glargine 24 units subcutaneous QPM  
11.  Ketoconazole 2%  1 Appl TP BID:PRN skin irritation  
12.  LamoTRIgine 150 mg PO BID  
13.  Lisinopril 40 mg PO DAILY  
14.  Multivitamins W/minerals 1 TAB PO DAILY  
15.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
16.  Rosuvastatin Calcium 40 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
buried penis, uncontrolled hypertension, gouty flare

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Do NOT shower until cleared by Dr. ___.

Do NOT engage in sexual activity (intercourse, masturbation) for 
at least six weeks and until cleared by Dr. ___.

Pain Medicine
For Mild Pain: 
•Take acetaminophen,which is Tylenol. Take 2 of the 325 mg 
tablets of Tylenol every 4-to-6 hours for pain. Do not take more 
than 4,000 mg of Tylenol in 24 hours. 
For Strong Pain: 
•You may be given a prescription for a narcotic pain medicine.
•Take this exactly the way your doctor tells you to.
•Narcotic pain medicine may make you sleepy and lightheaded.
•Do not drink alcohol, drive, or use machinery while you are 
taking narcotic pain medicine. 
•As your pain lessens, decrease the amount of pain medicine you 
are taking.
•Do not drink alcohol, drive, or use machinery while you are 
taking narcotic pain medicine.
Home Medications
•Please resume all of your home medicines except for your 
aspirin, which should resume when cleared by Dr. ___.

Constipation
•Narcotic pain medicine can cause constipation. During the 
first month, it is important to keep your stools soft. 
•To make it easier to have a bowel movement:

•Drink extra fluids.
•Eat foods high in fiber like fruits, vegetables and whole 
grains.

•Take a stool softener like docusate. Docusate is also called 
Colace®. You have been given a prescription for Colace®. You can 
also buy it over the counter which may cost less. 

•You may also take another laxative like Senna, prune juice, 
Milk of Magnesia, or Metamucil. 

Diet
•You may not be as hungry as you usually are for several weeks. 
This is normal and will pass. Do not force yourself to eat. 
•Do not drink alcohol while taking narcotic pain medicines. 
•Do remember to drink plenty of water which is ___ glasses a 
day. 
Activity 
•Walking is encouraged. Climbing stairs is ok. Do not do any 
strenuous exercise like aerobics, running or weight lifting for 
4 weeks.
•Do not lift more than 10 pounds for 4 weeks unless your 
urology surgeon says it is ok. Ten pounds is as heavy as a 
gallon of milk.

Driving
•Do not drive if you are taking narcotic pain medicine. Once 
you are no longer taking narcotic pain medicine, you may resume 
driving if you are no longer experiencing pain, weakness or 
other discomfort that would impair your ability to drive safely. 
This usually takes about 1 week. If you are still in pain or 
have weakness at 1 week, do not start driving until this 
resolves.

Possible Problems 
•Please call for fevers above 101 degrees, especially if 
accompanied by shaking chills. 

WHEN YOU ARE DISCHARGED WITH A FOLEY CATHETER:
o-Please also reference the nursing handout and instructions on 
routine care and hygiene

o-Your Foley should be secured to the catheter secure on your 
thigh at ALL times until your follow up with the surgeon.

o-DO NOT allow anyone outside your urologist/team 
representative remove your Foley for any reason.

o-Wear Large Foley bag for majority of time. The leg bag (if 
provided)  is for short-duration periods and the bag must be 
emptied frequently.

o-Do NOT drive if you have a Foley in place (for your 
safety-but of course you may be a passenger

 
Followup Instructions:
___